### PR TITLE
feat(Geometry/Euclidean): lemma about excenters and volumes

### PR DESCRIPTION
**Pull request by wwylele**
This proves that volume = inradius * surface / n

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Volume/Incenter.lean [hunk 1]
```diff
@@ -0,0 +1,117 @@
...
+variable {V P : Type*} [NormedAddCommGroup V] [InnerProductSpace ℝ V] [MetricSpace P]
+  [NormedAddTorsor V P] {n : ℕ} [NeZero n]
+
+/--
+Similar to `Affine.Simplex.excenterWeightsUnnorm`, these are unnormalized weights whose affine
+combination gives an excenter with the signs determined by the given set of indices. It is defined
+as the volume of the `Affine.Simplex.faceOpposite` attached with a sign.
+-/
+noncomputable def excenterWeightsFace (s : Simplex ℝ P n) (signs : Finset (Fin (n + 1)))
+    (i : Fin (n + 1)) : ℝ :=
```
Comment (SnirBroshi) [inline Mathlib/Geometry/Euclidean/Volume/Incenter.lean:46]: Could you add `s` / `signs` / `i` as `variable`s?

File: Mathlib/Geometry/Euclidean/Volume/Incenter.lean [hunk 2]
```diff
@@ -0,0 +1,117 @@
...
+  (if i ∈ signs then -1 else 1) * (s.faceOpposite i).volume
+
+theorem excenterWeightsFace_ne_zero (s : Simplex ℝ P n)
+    (signs : Finset (Fin (n + 1))) (i : Fin (n + 1)) :
+    s.excenterWeightsFace signs i ≠ 0 := by
+  unfold excenterWeightsFace
+  positivity
+
+@[simp]
+theorem excenterWeightsFace_empty_apply (s : Simplex ℝ P n) (i : Fin (n + 1)) :
```
Comment (SnirBroshi) [inline Mathlib/Geometry/Euclidean/Volume/Incenter.lean:56]: `_apply` seems fine but this is inconsistent with the other decls
```suggestion
theorem excenterWeightsFace_empty (s : Simplex ℝ P n) (i : Fin (n + 1)) :
```

File: Mathlib/Geometry/Euclidean/Volume/Incenter.lean [hunk 3]
```diff
@@ -0,0 +1,117 @@
...
+    s.excenterWeightsFace ∅ i = (s.faceOpposite i).volume := by
+  simp [excenterWeightsFace]
+
+theorem excenterWeightsFace_eq_volume_mul_excenterWeightsUnnorm (s : Simplex ℝ P n)
```
Comment (SnirBroshi) [inline Mathlib/Geometry/Euclidean/Volume/Incenter.lean:60]: Could you add the unapplied version (`s.excenterWeightsFace signs = n * s.volume * s.excenterWeightsUnnorm signs`), and name this with `_apply`?
Perhaps to keep the names short we could swap the sides and call it `mul_volume_mul_excenterWeightsUnnorm`

Comment (wwylele) [reply Mathlib/Geometry/Euclidean/Volume/Incenter.lean]: The unapplied version will need to use vector smul (`(n * s.volume) • s.excenterWeightsUnnorm signs`). Using such lemma often means you need to go through `Pi.smul_apply` and `smul_eq_mul`, which is ok for `simp` but more cumbersome for explicit rewrite. I don't expect one to use this as a vector a lot so I prefer staying with applied version.

I also kind of like the current direction for how that's often the way I read a characterizing lemma...
